* XOR benchmark: CMOS
.include ../../../models/65nm_bulk.pm
.include ../../circuits.lib
.param VDD=1.0
.temp 27.0
VSUP VDD 0 {VDD}
VA A 0 PULSE(0 1.0 2e-09 20p 20p 4e-09 8e-09)
VB B 0 0
XU A B Y VDD 0 XOR_CMOS
CLOAD Y 0 10.0f
.tran 2p 9.6e-08 0 2p
.meas tran pavg AVG (-V(VDD)*I(VSUP)) FROM=2.4e-08 TO=9.6e-08
.meas tran tplh TRIG V(A) VAL=0.5 RISE=3 TARG V(Y) VAL=0.5 RISE=3
.meas tran tphl TRIG V(A) VAL=0.5 FALL=3 TARG V(Y) VAL=0.5 FALL=3
.meas tran trise TRIG V(Y) VAL=0.1 RISE=3 TARG V(Y) VAL=0.9 RISE=3
.meas tran tfall TRIG V(Y) VAL=0.9 FALL=3 TARG V(Y) VAL=0.1 FALL=3
.meas tran voh MAX V(Y) FROM=2.4e-08 TO=9.6e-08
.meas tran vol MIN V(Y) FROM=2.4e-08 TO=9.6e-08
.end
